US09163051B2
Step 1: Synthesis of 3,4,5-tris(trimethylsilyloxy)-6-trimethylsilyloxymethyl-tetrahydropyran-2-one
To a solution of D-(+)-glucono-1,5-lactone (7.88 kg) and N-methylmorpholine (35.8 kg) in tetrahydrofuran (70 kg) was added trimethylsilyl chloride (29.1 kg) at 40° C. or below, and then the mixture was stirred at a temperature from 30° C. to 40° C. for 2 hours. After the mixture as cooled to 0° C., toluene (34 kg) and water (39 kg) were added thereto. The organic layer was separated and washed with an aqueous solution of 5% sodium dihydrogen phosphate (39.56 kg×2) and water (39 kg×1). The solvent was evaporated under reduced pressure to give the titled compound as an oil. The product was used in the next step without further purification.

reactant | D-(+)-glucono-1,5-lactone | 7.88 kg | C1([C@H](O)[C@@H](O)[C@H](O)[C@@H](CO)O1)=O | C6H10O6
reactant | N-methylmorpholine | 35.8 kg | CN1CCOCC1 | C5H11NO
reactant | trimethylsilyl chloride | 29.1 kg | C[Si](C)(C)Cl | C3H9ClSi
reactant | toluene | 34 kg | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 70 kg | O1CCCC1 | C4H8O
solvent | water | 39 kg | O | H2O
product | 3,4,5-tris(trimethylsilyloxy)-6-trimethylsilyloxymethyl-tetrahydropyran-2-one | C[Si](OC1C(OC(C(C1O[Si](C)(C)C)O[Si](C)(C)C)CO[Si](C)(C)C)=O)(C)C | C18H42O6Si4
